US07888364B2
2.5 mL of Diisopropylazodicarboxylate in 1.5 mL of THF was added dropwise to a solution of 250 mg of (6-methylpyridin-2-yl)methanol, 2.8 g of Triphenylphosphine and 1.6 g of isoindoline-1,3-dione in anhydrous THF at room temperature. The reaction was stirred for 2 hours and monitored by TLC. Upon complection, the solvent was concentrated, the crude material was extracted in water and Chloroform 3 times and dried over Magnesium Sulfate. The crude was purified via ISCO Combi-Flash to yield 2-((6-methylpyridin-2-yl)methyl)isoindoline-1,3-dione. 350 mg of 2-((6-methylpyridin-2-yl)methyl)isoindoline-1,3-dione was treated with 440 μL of Hydrazine Monohydrate in EtOH and refluxed for several hours to yield (6-methylpyridin-2-yl)methanamine. The crude (6-methylpyridin-2-yl)methanamine was evaporated and directly coupled to 50 mg of 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid via Procedure G. The crude product was purified on reverse phase HPLC to yield 2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-((6-methylpyridin-2-yl)methyl)terephthalamide. MS (Q1) 491.1 (M)+.

reactant | Diisopropylazodicarboxylate | 2.5 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (6-methylpyridin-2-yl)methanol | 250 mg | CC1=CC=CC(=N1)CO | C7H9NO
reactant | Triphenylphosphine | 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isoindoline-1,3-dione | 1.6 g | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-((6-methylpyridin-2-yl)methyl)isoindoline-1,3-dione | CC1=CC=CC(=N1)CN1C(C2=CC=CC=C2C1=O)=O | C15H12N2O2
